US04004020
b. (1S,5R,6R,7R)-6-[(E)-3-Oxo-3-(1,3-dioxa-2-indanyl)-1-propenyl]-7-benzoyloxy-2-oxabicyclo[3,3,0]octan-3-one
At -70° C., 0.6 ml. of a 2-molar butyllithium solution in hexane was added dropwise to a solution of 299 mg. of dimethyl-2-oxo-2-(1,3-dioxa-2-indanyl)-ethylphosphonate in 6 ml. of absolute dimethoxyethane; the mixture was warmed to room temperature, and 274 mg. of the above-mentioned 6-formyl compound, dissolved in 5 ml. of absolute dimethoxyethane, was added thereto. The reaction mixture was agitated for 1 hour at room temperture. After neutralization with glacial acetic acid, the mixture was combined with water, extracted with ether, shaken with sodium bicarbonate solution and water, dried over magnesium sulfate, and evaporated under vacuum. The residue was recrystallized from isopropyl ether/methylene chloride, thus obtaining 220 mg. of crystals, m.p. 119°-120° C.

reactant | butyllithium | 2-molar | C(CCC)[Li]
reactant | dimethyl-2-oxo-2-(1,3-dioxa-2-indanyl)-ethylphosphonate | CC(C(C1OC2=CC=CC=C2O1)=O)(P([O-])([O-])=O)C
reactant | dimethoxyethane | C(OC)COC | C4H10O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | hexane | CCCCCC | C6H14
product | (1S,5R,6R,7R)-6-[(E)-3-Oxo-3-(1,3-dioxa-2-indanyl)-1-propenyl]-7-benzoyloxy-2-oxabicyclo[3,3,0]octan-3-one | O=C(/C=C/[C@@H]1[C@H]2CC(O[C@H]2C[C@H]1OC(C1=CC=CC=C1)=O)=O)C1OC2=CC=CC=C2O1 | C24H20O7
